### PR TITLE
feat: Generalization of FixedPointApproximants to CompletePartialOrder

### PR DESCRIPTION
**Pull request by PhoenixIra**
---

This PR provides a generalization of FixedPointApproximants to CompletePartialOrder. Not every theorem can be generalized, as sometimes we require additional conditions (namely `x  ≤ f x`) in order to guarantee that the set is directed and thus the supremum is well-defined. This is not necessary in a CompleteLattice.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompletePartialOrder.lean [hunk 1]
```diff
@@ -45,14 +45,17 @@ class CompletePartialOrder (α : Type*) extends PartialOrder α, SupSet α where
...
+variable [CompletePartialOrder α] [Preorder β] {f : ι → α} {d d' : Set α} {a b : α}
 
 protected lemma DirectedOn.isLUB_sSup : DirectedOn (· ≤ ·) d → IsLUB d (sSup d) :=
 CompletePartialOrder.lubOfDirected _
 
 protected lemma DirectedOn.le_sSup (hd : DirectedOn (· ≤ ·) d) (ha : a ∈ d) : a ≤ sSup d :=
 hd.isLUB_sSup.1 ha
 
+protected lemma DirectedOn.le_sSup_of_le (hd : DirectedOn (· ≤ ·) d) (hb : b ∈ d) (ha : a ≤ b) :
+    a ≤ sSup d := le_trans ha (hd.le_sSup hb)
```
Comment (vihdzp) [inline Mathlib/Order/CompletePartialOrder.lean:57]: Surely we don't need this?

File: Mathlib/Order/CompletePartialOrder.lean [hunk 2]
```diff
@@ -62,6 +65,15 @@ hf.directedOn_range.le_sSup <| Set.mem_range_self _
 protected lemma Directed.iSup_le (hf : Directed (· ≤ ·) f) (ha : ∀ i, f i ≤ a) : ⨆ i, f i ≤ a :=
 hf.directedOn_range.sSup_le <| Set.forall_mem_range.2 ha
 
+protected lemma DirectedOn.sSup_le_sSup (hd : DirectedOn (· ≤ ·) d) (hd' : DirectedOn (· ≤ ·) d') :
+    d ⊆ d' → sSup d ≤ sSup d' := by
+  intro h
+  apply hd.sSup_le
+  intro a h_a
+  apply hd'.le_sSup
+  exact Set.mem_of_subset_of_mem h h_a
```
Comment (vihdzp) [inline Mathlib/Order/CompletePartialOrder.lean]:
```suggestion
    (h : d ⊆ d') : sSup d ≤ sSup d' :=
  hd.sSup_le fun _ ha ↦ hd'.le_sSup <| Set.mem_of_subset_of_mem h ha
```

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean [hunk 3]
```diff
@@ -77,75 +80,134 @@ def lfpApprox (a : Ordinal.{u}) : α :=
 termination_by a
 decreasing_by exact h
 
-theorem lfpApprox_monotone : Monotone (lfpApprox f x) := by
+theorem directedOn_lfpApprox (a : Ordinal.{u}) (h : x ≤ f x) :
+    DirectedOn (· ≤ ·) ({ f (lfpApprox f x b) | (b : Ordinal) (h : b < a) } ∪ {x}) := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: Isn't this a chain? Surely there's an easier proof using that fact.

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean [hunk 4]
```diff
@@ -77,75 +80,134 @@ def lfpApprox (a : Ordinal.{u}) : α :=
...
+  apply DirectedOn.sSup_le_sSup (directedOn_lfpApprox _ _ _ h_f) (directedOn_lfpApprox _ _ _ h_f)
+  apply Set.union_subset_union ?_ (by rfl)
   simp only [exists_prop, Set.setOf_subset_setOf, forall_exists_index, and_imp,
     forall_apply_eq_imp_iff₂]
   intro a' h'
   use a'
   exact ⟨lt_of_lt_of_le h' h, rfl⟩
 
-theorem le_lfpApprox {a : Ordinal} : x ≤ lfpApprox f x a := by
+theorem le_lfpApprox {a : Ordinal} (h_f : x ≤ f x) : x ≤ lfpApprox f x a := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: Maybe?
```suggestion
theorem le_lfpApprox_of_le {a : Ordinal} (h_f : x ≤ f x) : x ≤ lfpApprox f x a := by
```

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean [hunk 5]
```diff
@@ -207,6 +269,143 @@ theorem lfpApprox_ord_mem_fixedPoint (h_init : x ≤ f x) :
...
+variable {α : Type u}
+variable [CompleteLattice α] (f : α →o α) (x : α)
+
+open Function fixedPoints Cardinal Order OrderHom
+
+set_option linter.unusedVariables false in
+/-- The ordinal-indexed sequence approximating the least fixed point greater than
+an initial value `x`. It is defined in such a way that we have `lfpApprox 0 x = x` and
+`lfpApprox a x = ⨆ b < a, f (lfpApprox b x)`. -/
+def lfpApprox (a : Ordinal.{u}) : α :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: Is this not exactly identical to the other `lfpApprox`? We surely don't need both.

File: Mathlib/Order/CompletePartialOrder.lean (hunk 1 above)
Comment (PhoenixIra) [reply Mathlib/Order/CompletePartialOrder.lean:57]: This is mainly reflecting the API from [le_sSup_of_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice/Defs.html#le_sSup_of_le) and [le_csSup_of_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/ConditionallyCompleteLattice/Basic.html#le_csSup_of_le) and as such I felt like it is a good style for consistency reasons to introduce it like this.

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean (hunk 3 above)
Comment (PhoenixIra) [reply Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: Yes, we are proving here that the approximants are forming a chain. The problem I had here was mainly that easier proofs seem to require monotonicity of the `lfpApprox` operator. But the operator is only monotone if the set is actually a chain (otherwise the supremum may behave arbitrary). So in a sense I have to prove monotonic and the chain property in one. I am open for an idea how to split the proof up (and will also try to think about it myself)

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean (hunk 5 above)
Comment (PhoenixIra) [reply Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: I removed (hopefully all?) the duplicates!

File: Mathlib/Order/CompletePartialOrder.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Order/CompletePartialOrder.lean:57]: Alright, we can keep it, then.

File: Mathlib/Order/CompletePartialOrder.lean [hunk 6]
```diff
@@ -62,6 +65,11 @@ hf.directedOn_range.le_sSup <| Set.mem_range_self _
 protected lemma Directed.iSup_le (hf : Directed (· ≤ ·) f) (ha : ∀ i, f i ≤ a) : ⨆ i, f i ≤ a :=
 hf.directedOn_range.sSup_le <| Set.forall_mem_range.2 ha
 
+protected lemma DirectedOn.sSup_le_sSup (hd : DirectedOn (· ≤ ·) d) (hd' : DirectedOn (· ≤ ·) d')
+    (h : d ⊆ d') : sSup d ≤ sSup d' :=
+  hd.sSup_le fun _ ha ↦ hd'.le_sSup <| Set.mem_of_subset_of_mem h ha
+
+
```
Comment (vihdzp) [inline Mathlib/Order/CompletePartialOrder.lean]:
```suggestion
```

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean [hunk 7]
```diff
@@ -77,75 +76,134 @@ def lfpApprox (a : Ordinal.{u}) : α :=
...
+variable [CompleteLattice β] (g : β →o β) (y : β)
+
+set_option linter.unusedVariables false in
+/-- The ordinal-indexed sequence approximating the greatest fixed point greater than
+an initial value `x`. It is defined in such a way that we have `gfpApprox 0 x = x` and
+`gfpApprox a x = ⨅ b < a, f (lfpApprox b x)`. -/
+def gfpApprox (a : Ordinal.{u}) : β :=
+  sInf ({ g (gfpApprox b) | (b : Ordinal) (h : b < a) } ∪ {y})
+termination_by a
+decreasing_by exact h
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: You can disable the linter by doing this (though perhaps this is a linter bug that should be directly addressed instead).
```suggestion
  sInf ({ g (gfpApprox b) | (b : Ordinal) (_ : b < a) } ∪ {y})
termination_by a
decreasing_by assumption
```

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean [hunk 8]
```diff
@@ -77,75 +76,134 @@ def lfpApprox (a : Ordinal.{u}) : α :=
...
+
+open Function fixedPoints Cardinal Order OrderHom
+
+
+
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]:
```suggestion
```

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: I think we should be able to prove `a ≤ b → lfpApprox f x a ≤ lfpApprox x b` by induction on `b`. Assuming this condition for all `b < c`, we should easily get that `lfpApprox f x '' Iio c` is a chain and thus directed, from where you should be able to prove `lfpApprox f x c` is ≥ than all of these, completing the induction.

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean [hunk 9]
```diff
@@ -64,9 +65,7 @@ namespace OrdinalApprox
 
 universe u
 variable {α : Type u}
-variable [CompleteLattice α] (f : α →o α) (x : α)
-
-open Function fixedPoints Cardinal Order OrderHom
+variable [CompletePartialOrder α] (f : α →o α) (x : α)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: Feels like this would be nicer, given a lot of your theorems have `x ≤ f x` as an explicit condition already.
```suggestion
variable [CompletePartialOrder α] {f : α →o α} {x : α}
```

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean [hunk 10]
```diff
@@ -77,75 +76,134 @@ def lfpApprox (a : Ordinal.{u}) : α :=
...
 
-theorem lfpApprox_monotone : Monotone (lfpApprox f x) := by
+variable {β : Type u}
+variable [CompleteLattice β] (g : β →o β) (y : β)
+
+set_option linter.unusedVariables false in
+/-- The ordinal-indexed sequence approximating the greatest fixed point greater than
+an initial value `x`. It is defined in such a way that we have `gfpApprox 0 x = x` and
+`gfpApprox a x = ⨅ b < a, f (lfpApprox b x)`. -/
+def gfpApprox (a : Ordinal.{u}) : β :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: How come `lfpApprox` and `gfpApprox` have different typeclass assumptions? Why can't they be unified?

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean (hunk 3 above)
Comment (PhoenixIra) [reply Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: I don't think I can prove `a ≤ b → lfpApprox f x a ≤ lfpApprox x b`  without first proving that it is a chain since without the chain property `sSup` is just an arbitrary function. It may not even be monotone. We only know that `sSup` is the least upper bound if the set is a chain.

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean (hunk 10 above)
Comment (PhoenixIra) [reply Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean]: We currently do not have `CoCompletePartialOrder`, which would be the dual of `CompletePartialOrder`. Defining `gfpApprox` using the dual syntax would be possible, but is clunky. I would rather (at a later PR) add `CoCompletePartialOrder` to unify this.
